Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm homeless"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old man with historical diagnoses of 
borderline personality disorder, obsessive compulsive disorder, 
and unspecified mood disorder, complicated by childhood trauma 
(reporting mother had ___ by proxy), chronic suicidal 
ideation, recent homelessness who presents to ___ ED with 
increased suicidal ideation with plan to drown himself.  States 
his suicidal ideation had increased over the last several 
months, but particularly the last two months with the added 
stress of homelessness, "it's become unmanageable". Describes 
that he will often sit by train for hours contemplating jumping 
in front and recently having the plan to drown himself. He uses 
marijuana to cope and finds it's the only thing that resolves 
his suicidal ideation. 

Prior to becoming homeless, he was living for a short time with 
his Aunt (but not welcome there) and prior to that living with a 
friend for six months but found that situation to be emotionally 
triggering for him.  He describes his current symptoms mainly as 
chronic suicidality and "somatic".  He goes on to describe 
muscle tightness and pain in his face and neck as examples of 
his somatic sx.  He denies having any significant anxiety.  For 
depression sx, patient expresses difficulty with sleep related 
to homelessness but overall intact attention and is still able 
to enjoy things like going for a walk and reading.  Currently 
does not feel in danger of harming himself and feels that he 
would be able to approach staff if he is feeling worse.  Patient 
states that he has been on all different medications from all 
different classes and finds nothing helpful.  He is recently 
interested in specific types of therapy that focus on the 
somatic sx he experiences and even found someone in ___ 
but feels like he is unable to keep it together to make it 
there.  His most recent two hospitalizations haven't been 
particularly helpful. He trialed Wellbutrin which he found made 
him sedated and "clouded" and did not like it.  When asked how 
we can be helpful, he is not sure.  

Patient denies any prior history of psychosis or mania.  No 
reported history of violence. 

 
Past Medical History:
No acute/chronic medical concerns or diagnoses

PAST PSYCHIATRIC HISTORY:
-Sx: OCD in childhood, depression, has been given multiple 
diagnoses during childhood hospitalizations including bipolar 
and borderline personality disorder
-Hospitalizations: approximately 35 hospitalizations between age 
___ years of age, and 2 hospitalizations in ___ in the 
last 2 months (see collateral information below from discharge 
summary obtained), multiple CSU stays, including most recently 
at ___ last week
-Current treaters and treatment: denies
-Medication and ECT trials: "everything, every class", recently 
on wellbutrin for 5 days at ___ but reports causing 
fatigue and discontinued 
-Self-injury/Suicide attempts: Denies, however, per OMR chart 
review "denies h/o SA. Reports he hits his own head and face 
with his own hands causing bruising to relieve stress. Also 
reported history of head banging in the past. Denies LOC."
-Harm to others: denies
-Access to weapons: denies

 
Social History:
___
Family History:
-Patient denied family history to me, however, prior reported 
"depression on both sides of family, no known hospitalizations 
or suicide attempts, patient states "I am the identified patient 
in the family." Per OMR "older brother - ___ twin 
brother- anxiety problems
 
Physical Exam:
Physical Examination:
___ 1225 Temp: 98.3 ___ BP: 126/78 HR: 81 RR: 18 O2 sat: 
96% 
General- NAD, well appearing, awake/alert
Skin- intact, dry 
HEENT- moist mucous membranes, no pharyngeal erythema 
Neck and Back- supple
Lungs- CTAB, no wheezes
CV- RRR, no murmur
Abdomen: Soft, non-tender, non-distended 
Extremities- no calf tenderness, no edema 

Neuro- CN: pupils symmetry and responsiveness to light and 
accommodation, EOM: intact, facial sensation to light touch in 
all 3 divisions: intact, facial symmetry on eye closure and 
smile: intact and no asymmetry, phonation: normal, head turning
and shoulder shrug: normal bilaterally, tongue: midline, no 
atrophy

Motor: Strength upper and lower extremities equal and bilateral 
___ 

Sensation: intact to light touch 
Coordination: Finger-nose-finger intact 
Gait: stable gait 

 
Pertinent Results:
___ 04:20PM BLOOD WBC-7.7 RBC-4.71 Hgb-14.5 Hct-42.8 MCV-91 
MCH-30.8 MCHC-33.9 RDW-12.1 RDWSD-39.8 Plt ___
___ 04:20PM BLOOD Glucose-113* UreaN-12 Creat-0.9 Na-143 
K-4.6 Cl-105 HCO3-27 AnGap-11
___ 04:20PM BLOOD ALT-24 AST-22 LD(LDH)-198 AlkPhos-49 
TotBili-0.2
___ 04:20PM BLOOD Albumin-4.8 Phos-4.0 Mg-2.1
___ 04:20PM BLOOD VitB12-688
___ 04:20PM BLOOD TSH-1.2
___ 04:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:09AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission. There were no behavioral concerns 
requiring restraint or seclusion during hospitalization. 
.
2. PSYCHIATRIC:
On admission interview, patient reported an increase in suicidal 
ideation in the context of recent homelessness, resulting in two 
recent inpatient hospitalizations. The patient described these 
hospitalizations as unhelpful, as he was ultimately discharged 
with ongoing suicidal ideation and no change in his 
homelessness. Patient reported ongoing suicidal ideation on 
admission but no plan or intent. He otherwise had a linear 
thought process, no obvious delusions or paranoia, and cognitive 
exam devoid of overt deficits. He did not exhibit any symptoms 
of mania or psychosis. Presentation notable for symptoms 
exhibited across several diagnostic domains (e.g. anxiety, 
depressive, trauma-related disorders); however, he did not 
endorse or manifest symptoms consistent with an acutely 
decompensated major depressive disorder. Prominent throughout 
his admission were symptoms consistent with unstable character 
pathology (specifically, borderline personality disorder), 
including a pattern of unstable and intense interpersonal 
relationships characterized by alternating between extremes of 
idealization and devluation, identity disturbance, affective 
instability due to a marked reactivity of mood (e.g. intense 
episodic dysphoria, irritability, and anxiety usually lasting a 
few hours), chronic feelings of emptiness, inappropriate or 
intense anger, and transient/stress-related paranoid ideation.  
.
Treatment team offered to discuss trials of medications (e.g. 
antidepressants, mood stabilizers) to address mood lability and 
anxiety as above. Patient declined. Patient was offered ativan 
0.5 mg BID PRN anxiety, which he intermittently utilized but 
reported limited benefit. On admission, patient noted that he 
experiences the most relief from symptoms with chronic, daily 
marijuana use. The team attempted to engage patient in 
discussion about coping skills to use during episodes of 
emotional dysregulation; patient was initially dismissive, but 
ultimately named taking walks, doing yoga, and splashing cold 
water on his face. Multiple times during hospitalization, the 
team attempted to discuss with the patient what he would find 
helpful, such as medications, groups, and additional outpatient 
mental health resources on discharge (e.g. PHP, community 
support person through his insurance); however, patient 
consistently declined all recommendations and interventions 
offered. Upon discharge, the patient continued to endorse 
passive suicidal ideation without intent or plan. Of note, 
review of collateral records (below) indicates that patient was 
discharged with a similar presentation. Nonetheless, patient was 
future oriented and discussed with the team plans for discharge, 
including asking when his follow up appointments are scheduled, 
signing a release of information for his outpatient providers, 
and giving the team permission to speak with his mother in order 
to obtain money for housing. He was discharged with a follow up 
appointment with a PCP at ___ the same day, who can refer to the 
patient to psychiatric care at ___. He was also scheduled with 
psychiatric follow up at ___, and was given a list of 
trauma informed therapists and emergency shelters. 
.
3. SUBSTANCE USE DISORDERS:
#) Cannabis use disorder
Patient reported using marijuana to help with his suicidality. 
Patient was encouraged to develop other coping skills to help 
with his mood and anxiety. Encouraged patient to continue to 
follow up with outpatient providers. 
.
4. MEDICAL
There were no acute medical concerns during hospitalization. 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient mostly declined to attend groups. He intermittently 
attended coping skills groups, however was noted to minimally 
participate. He was, though, frequently seen in the dayroom 
socializing with peers. There were no behavioral concerns 
requiring restraint or seclusion. 
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
The patient initially declined family involvement, however 
ultimately allowed the team to contact his brother. Brother 
affirmed patient's longstanding history of
affective and behavioral dysregulation. Brother was not aware of 
any confirmed suicide attempts by patient, noting that patient 
is consistently help-seeking.
Brother agreed with treatment teams recommendation that patient 
would benefit from long-term outpatient treatment to address 
emotional dysregulation, poor distress tolerance, and chronic 
suicidality. 
.
The day of discharge, the patient allowed the team to contact 
his mother regarding help with finances to secure housing. 
Mother confirmed that she would be willing and capable of 
providing funds for patient's housing. 
.
Per ___ psychiatric consultation note at ___, patient 
has a history of borderline personality disorder and previously 
had a ___ day hospitalization at ___ in which he was still 
suicidal on discharge. Medical records from ___ were obtained, 
which noted that patient presented to ___ immediately after 
leaving ___ following admission from ___ 
and feeling suicidal. Upon arrival to ___, "patient reports he 
was discharged from ___ earlier today, after having been there 
for five days due to depression and chronic SI. Reports that he 
did "okay" on the unit for the first several days, but over the 
last two days when he realized that he would be discharge to a 
___ with referrals, but no actual appointments, he grew 
increasingly more dysphoric, as he felt that this plan would not 
afford him what he needed to stabilize. Reports he was taking 
the train en route to go to the ___, when he grew acutely 
suicidal. Reports that he had thoughts of drowning himself. 
Grows tearful when recounting this, stating that he thought he 
would actually make an attempt. States that those thoughts were 
a signal to him that he needed more intense support, so he took 
the train to the ___ ED as he had a previous positive experience 
here. Reports ongoing suicidal ideation, and states that he is 
concerned he may act on those thoughts if not in acute care. 
While denying history of prior attempts, states that he is so 
isolated and feels worthless, such that he may attempt 
suicide.") Throughout this admission, patient was noted to be 
ambivalent about care and was help seeking/requesting yet would 
reject most forms of help offered. His chronic SI was noted to 
remain. (Please see additional information regarding hospital 
course contained in scanned documents from current ___ 
admission). 
.
Upon discharge from ___ on ___, "patient endorsed increased 
anxiety about going back into the community without more solid 
housing resources. Validated difficulty being homeless well 
emphasizing that additional housing resources are not available 
to be arranged directly from the inpatient unit. Encourage 
patient to follow-up with all the social services discussed with 
patient, as well as the transitions appointments made for the 
next week. Patient acknowledged the plan. He reported his 
chronic suicidal ideation was present but no active suicidal 
ideation. He felt anxious about discharge and also felt safe to 
do so. There were no psychiatric contraindications to 
discharge... Discharge risk assessment: Patient is a chronically 
elevated risk for harm given chronic suicidal ideation and 
dysphoric mood. Additionally, his homelessness puts him at 
increased risk. Protective factors are his help seeking nature 
that seems to prevented him from attempting suicide thus far. 
Over the hospitalization, he was set up with appointments to 
continue care after discharge. He was also given information 
about various resources available to him in the community. Based 
on the available information with reasonable medical certainty, 
there is no indication that at the time of discharge the patient 
presented, due to mental illness and eminent substantial risk of 
harm to himself or others. The patient denied plan or intent to 
harm others upon discharge. Modifiable risk factors been 
addressed, appropriate follow-up is arranged, and he has been 
given contact information for crisis and contingency management 
in the community." 
.
#) INTERVENTIONS
- Medications: Patient declined standing medications. Offered 
ativan 0.5 mg BID PRN anxiety during hospitalization. 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Patient with a PCP appointment the 
day of discharge. Patient's PCP may refer patient to psychiatry 
at ___. In addition, patient was set up with psychiatric follow 
up at ___. 
- Behavioral Interventions: encouraged development of coping 
skills
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself. His static risk factors 
include caucasian race and recent psychiatric hospitalization. 
His modifiable risk factors included SI, lack of outpatient 
providers, homelessness, and substance abuse. During 
hospitalization, the team discussed with the patient coping 
skills and set up the patient with outpatient providers. He was 
consistently future oriented. On the day of discharge, patient 
asked appropriate future oriented questions regarding his follow 
up appointments, also signing a release of information for his 
records to be sent to his outpatient providers. In addition, 
patient asked the team to contact his mother in order for his 
mother to help finance a place to stay. The patient's chronic 
suicidality is well documented in previous records, with no 
documented prior suicide attempts. He has consistently 
demonstrated his ability to seek and access additional 
psychiatric resources. However, records indicate that inpatient 
hospitalization has been of limited effectiveness to resolve 
patient's longstanding and chronic emotional dysregulation. 
Goals for future treatment would be for patient to engage 
meaningfully in outpatient treatment and avoid inpatient 
admission except in the event of acute suicidal crisis. In sum, 
although the patient is chronically at risk due to chronic 
passive SI and ongoing homelessness, patient is not at acutely 
elevated acute risk of self-harm or harm to others due to 
decompensated affective or psychotic illness that would require 
ongoing inpatient hospitalization. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder - R/o MDD, Dysthymia
PTSD by history 
Cannabis use disorder
Borderline personality disorder by history 

 
Discharge Condition:
Vitals - pt refused morning of discharge
___: T 97.7 BP 120/83 HR 66 RR 18 O2 98%

Mental Status
*Appearance: appropriately dressed, well groomed, appears
stated age. 
Behavior: calm, cooperative with interview
*Mood and Affect: 'frustrated'; affect blunted
*Thought process: linear, no loosening of association 
*Thought Content: reports chronic passive SI without plan or 
intent, similar to previous documentation by CHA, however 
patient discusses with team future plans including follow up 
appointments and obtaining money for housing
*Judgment and Insight: fair/fair 

Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
You were hospitalized at ___ for depression. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___